US06489490B1
At 0° C., 12.9 g of γ-ethoxy-γ-butyrolactam, 10 ml of conc. sulphuric acid and 90 ml of glacial acetic acid were initially charged and admixed, a little at a time, with a total of 18.8 g of phenol. After thawing, the mixture was stirred at room temperature for 2 days. For work-up, the mixture was poured onto ice and extracted three times with ethyl acetate, and the combined extracts were washed once each with water and saturated sodium chloride solution, dried and concentrated. After some time, γ-2-hydroxyphenyl-γ-butyrolactam (XI-2b) of melting point 220° C. (6.4 g, 36% of theory) crystallized from the aqueous phase. The residue obtained after concentration was stirred with a 1:1 mixture of cyclohexane/ethyl acetate and gave, after filtration with suction, 4.65 g of γ-4-hydroxyphenyl-γ-butyrolactam (XI-2a) of melting point 183° C. The filtrate was concentrated. A further 3.35 g (total: 45% of theory) of γ-4-hydroxyphenyl-γ-butyrolactam were obtained by recrystallization from dichloromethane/hexane.

reactant | γ-ethoxy-γ-butyrolactam | 12.9 g | C(C)OC1CCC(=O)N1 | C6H11NO2
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | phenol | 18.8 g | C1(=CC=CC=C1)O | C6H6O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | γ-4-hydroxyphenyl-γ-butyrolactam | 3.35 g, 45% | OC1=CC=C(C=C1)C1CCC(=O)N1 | C10H11NO2
